US08106070B2
Boron trifluoride diethyl etherate (12.56 mL, 100 mmol) was added to a −78° C. solution of N-carbobenzoxy-dl-alanine (4.47 g, 20 mmol) and benzaldehyde dimethyl acetal (2.97 mL, 19.8 mmol) in diethyl ether (100 mL). After stirring at ambient temperature for 4 days, the reaction mixture was recooled to 0° C., quenched with saturated aqueous sodium bicarbonate and extracted with diethyl ether. The combined organic extracts were dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 5-45% ethyl acetate/hexane afforded benzyl 4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate.

reactant | Boron trifluoride diethyl etherate | 100 mmol, 12.56 mL | B(F)(F)F.CCOCC
reactant | N-carbobenzoxy-dl-alanine | 20 mmol, 4.47 g | C(=O)(OCC1=CC=CC=C1)NC(C)C(=O)O | C11H13NO4
reactant | benzaldehyde dimethyl acetal | 19.8 mmol, 2.97 mL | COC(C1=CC=CC=C1)OC | C9H12O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | benzyl 4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate | CC1N(C(OC1=O)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C18H17NO4
